US07271266B2
Step A: 1-(2,4-Dichlorophenyl)-2-(4-fluorophenyl)ethanone
To an oven-dried three-neck round bottom flask fitted with a condenser and addition funnel flushed with N2 was added magnesium (4.23 g; 174 mmol) and anhydrous ether (100 mL). A solution of 4-flourobenzyl bromide (8.69 mL; 69.7 mmol) in ether (50 mL) was added dropwise via the addition funnel at room temperature. After the addition, the reaction mixture was heated at 40° C. for 2 hours. The reaction mixture was allowed to cool to room temperature and was cannulated into another dried flask charged with a solution of 2,4-dichlorobenzonitrile (10.0 g; 58.0 mmol) in ether (150 mL) under an N2 atmosphere. The resulting reaction mixture was stirred at 40° C. for 6 hours. The reaction was cooled to room temperature and quenched slowly with 2N aq. HCl, then partitioned between ethyl acetate and 2N aq. HCl. The organic portion was washed with 2N aq. HCl, water, brine, dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was filtered through a silica gel plug (eluted with 20% ethyl acetate/hexane), and recrystallized from hexane to afford product: m/e=283 (M+1).

reactant | magnesium | 174 mmol, 4.23 g | [Mg] | Mg
reactant | 4-flourobenzyl bromide | 69.7 mmol, 8.69 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 2,4-dichlorobenzonitrile | 58.0 mmol, 10.0 g | ClC1=C(C#N)C=CC(=C1)Cl | C7H3Cl2N
reactant | ether | 50 mL | CCOCC | C4H10O
reactant | ether | 150 mL | CCOCC | C4H10O
reactant | ether | 100 mL | CCOCC | C4H10O
product | 1-(2,4-Dichlorophenyl)-2-(4-fluorophenyl)ethanone | ClC1=C(C=CC(=C1)Cl)C(CC1=CC=C(C=C1)F)=O | C14H9Cl2FO
